US07897609B2
Pyridine hydrochloride (0.095 g, 0.82 mmol) and triethyl orthopropionate (6.36 g, 36.1 mmol) were sequentially added to a solution of 1-[(3-amino-7-bromo[1,5]naphthyridin-4-yl)amino]-2-methylpropan-2-ol (10.2 g, 32.8 mmol) in toluene (200 mL), and the resulting mixture was heated at reflux for three hours. Most of the solvent was removed under reduced pressure, and a solid was present. The solid was isolated by filtration and dried to provide 8.59 g of 1-(7-bromo-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)-2-methylpropan-2-ol as a light yellow solid. A small portion of the solid was recrystallized from acetonitrile to provide an off-white solid, mp 207-208° C.

reactant | triethyl orthopropionate | 36.1 mmol, 6.36 g | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | 1-[(3-amino-7-bromo[1,5]naphthyridin-4-yl)amino]-2-methylpropan-2-ol | 32.8 mmol, 10.2 g | NC=1C=NC2=CC(=CN=C2C1NCC(C)(O)C)Br | C12H15BrN4O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pyridine hydrochloride | 0.82 mmol, 0.095 g | Cl.N1=CC=CC=C1
product | 1-(7-bromo-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)-2-methylpropan-2-ol | 8.59 g | BrC=1C=NC=2C3=C(C=NC2C1)N=C(N3CC(C)(O)C)CC | C15H17BrN4O
